US07786132B2
3-(2-Aminoethyl)-imidazolidine-2,4-dione hydrochloride
(2-Aminoethyl)-carbamic acid tert-butyl ester (14.4 g, 90 mmol) was dissolved in DCM (100 mL) and was treated with a solution of isocyanatoacetic acid ethyl ester (11.6 g. 90 mmol) in DCM (100 mL) added dropwise over 30 min. The resulting solution was stirred for 1 h and concentrated to give a pale gum. Aqueous 5N HCl (250 mL) was added and the mixture stirred until dissolved. The resulting solution was heated at 100° C. for 16 h, concentrated, water (250 mL) was added and the solution again concentrated to give a solid. Ethanol (100 mL) was added and the mixture was again concentrated. Ethanol (150 mL) was added and the mixture stirred for 16 h to give the product as a fine white powder which was collected by filtration. Yield=14.7 g, 91%. MS (M+H)+ 144.

reactant | (2-Aminoethyl)-carbamic acid tert-butyl ester | 90 mmol, 14.4 g | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | isocyanatoacetic acid ethyl ester | 90 mmol, 11.6 g | C(C)OC(CN=C=O)=O | C5H7NO3
reactant | HCl | 5N, 250 mL | Cl | ClH
reactant | Ethanol | 100 mL | C(C)O | C2H6O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Aminoethyl)-imidazolidine-2,4-dione hydrochloride | Cl.NCCN1C(NCC1=O)=O | InChI=1S/C5H9N3O2.ClH/c6-1-2-8-4(9)3-7-5(8)10;/h1-3,6H2,(H,7,10);1H
